US06982348B2
8) tert-butyl (4RS,5RS)-2-oxo-5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate
To a solution of (4RS,5RS)-5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (1.01 g, 2.18 mmol) in acetonitrile (15 ml) were added di-tert-butyl dicarbonate (571 mg, 2.62 mmol) and 4-N,N-dimethylpyridine (26.9 mg, 0.22 mmol), and the mixture was stirred at room temperature for 1 hr. To the reaction solution was added water (50 ml) and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-1:1). Recrystallization from ethyl acetate-hexane gave the objective substance (1.07 g, 87%).

reactant | (4RS,5RS)-5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 2.18 mmol, 1.01 g | O(C1=CC=CC=C1)C=1C=CC(=NC1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C23H18F4N2O4
reactant | di-tert-butyl dicarbonate | 2.62 mmol, 571 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | tert-butyl (4RS,5RS)-2-oxo-5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=NC=C(C=C1)OC1=CC=CC=C1 | C28H26F4N2O6
